plaintext
* SPICE netlist for the given schematic

V0 4 0 DC 1
C1 4 2 1uF

M1 2 3 0 0 NMOS
M2 3 4 0 0 NMOS

R1 3 5 1k
VDD 5 0 DC 5

* NMOS transistor model
.model NMOS NMOS (LEVEL=1)